data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc(C(F)(F)F)cc1_2-C(C)(C)C_3-c1ccc(F)cc1_4-CC(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)","C(c1ccc(F)cc1)(CC(C)C)O"],"products_smiles": ["OC(c1ccc(C(F)(F)F)cc1)(C(C)(C)C).C(c1ccc(F)cc1)(=O)CC(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccc(F)cc1)(CC(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(CC(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(c1ccc(F)cc1)(CC(C)C)[O][Al-](OC(C)C)([O+]=C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(C(C)(C)C).C(c1ccc(F)cc1)(=O)CC(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-323_1-c1ccccc1_2-C(F)(F)F_3-CC_4-C(C)(C)C_5-C(C)(C)C_6-CC","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(c1ccccc1)(C(F)(F)F)=C(CC)C(C(C)(C)C)(C(C)(C)C)OCCC","CCCC[Li]"],"products_smiles": ["OC(CC)C(c1ccccc1)(C(F)(F)F)C(CC)=C(C(C)(C)C)(C(C)(C)C)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)=C(CC)C(C(C)(C)C)(C(C)(C)C)O[CH-]CC","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(CC)C(c1ccccc1)(C(F)(F)F)C(CC)=C(C(C)(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(CC)C(c1ccccc1)(C(F)(F)F)C(CC)=C(C(C)(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
